US05215982
A mixture of acetic anhydride (4.83 ml) and formic acid (3.86 ml) was stirred at room temperature for 1 hour. The solution was cooled at ice-bath and 3-methyl-1H-imidazo[1,2-b]pyrazole (3.1 g) was added thereto. The mixture was stirred at the same condition for 1 hour. The reaction mixture was evaporated and the residue was subjected to column chromatography on silica gel using ethyl acetate as an eluent. Fractions containing the object compound were combined and the solvent was evaporated to give 1-formyl-3-methyl-1H-imidazo[1,2-b]pyrazole (2.99 g).

reactant | acetic anhydride | 4.83 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-methyl-1H-imidazo[1,2-b]pyrazole | 3.1 g | CC1=CNC=2N1N=CC2 | C6H7N3
solvent | formic acid | 3.86 ml | C(=O)O | CH2O2
product | 1-formyl-3-methyl-1H-imidazo[1,2-b]pyrazole | 2.99 g | C(=O)N1C=C(N2N=CC=C21)C | C7H7N3O
